US04243409
55.8 g (0.31 mol) of 3-nitrobenzamidoxime were dissolved in 900 ml of tetrahydrofuran and were reacted within a period of 1 hour by dropwise addition under stirring of 43.1 ml (0.31 mol) trifluoroacetic anhydride. During this operation the temperature rose by 10° C. After 3 hours the formation of the 1,2,4-oxadiazole was complete. The mass was then poured into 2 liter of ice water. The reaction product thereafter was extracted with acetic ester. The acetic ester phase was washed with water, dried on magnesium sulfate and stirred by revolving it. There were obtained 3-(3-nitrophenyl)-5-trifluoromethyl-1,2,4-oxadiazole in an amount of 52.8 g=65.7% of the theoretical value. The melting point of the compound was 77°-78° C.

reactant | 3-nitrobenzamidoxime | 0.31 mol, 55.8 g | [N+](=O)([O-])C=1C=C(C(N)=NO)C=CC1 | C7H7N3O3
reactant | trifluoroacetic anhydride | 0.31 mol, 43.1 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1,2,4-oxadiazole | O1N=CN=C1 | C2H2N2O
solvent | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
product | 3-(3-nitrophenyl)-5-trifluoromethyl-1,2,4-oxadiazole | [N+](=O)([O-])C=1C=C(C=CC1)C1=NOC(=N1)C(F)(F)F | C9H4F3N3O3
